US05763458
Proceeding as in Example 4, Step (c), but replacing l-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one and piperidine with dimethylamine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-dimethylaminopentan-1-one hydrochloride, m.p. 221°-224° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | dimethylamine | CNC | C2H7N
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-dimethylaminopentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN(C)C)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C22H29ClN2O4.ClH/c1-25(2)8-6-5-7-21(26)18-12-19(23)20(24)13-22(18)29-14-15-9-16(27-3)11-17(10-15)28-4;/h9-13H,5-8,14,24H2,1-4H3;1H
